US07592365B2
0.012 cm3 of 2-fluoro-5-trifluoromethylphenyl isocyanate and 0.012 cm3 of triethylamine are added at a temperature in the region of 20° C., under an argon atmosphere, to 0.017 g (84.48 mmol) of 4-(4-aminophenyl)-1H-pyrrole-3-carboxamide in suspension in 27 cm3 of tetrahydrofuran. After stirring for 20 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue which is purified by flash chromatography [eluent: ethyl acetate/dichloromethane (95/5 by volume)]. After concentrating the fractions under reduced pressure, a yellow residue is obtained which is stirred in 5 cm3 of dichloromethane and then filtered and dried under reduced pressure (2.7 kPa) to give 22 mg of 4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-3-carboxamide, in the form of a beige solid; 1H NMR (300 MHz, (CD3)2SO, —δ in ppm): from 6.57 to 7.02 (very broad m: 2H); 6.85 (broad t, J=2.5 Hz: 1H); 7.29 (broad t, J=2.5 Hz: 1H); from 7.33 to 7.43 (m; 5H); 7.49 (dd, J=10.5 and 8.5 Hz: 1H); 8.60 (dd, J=7.5 and 2.5 Hz: 1H); 9.31 (broad s: 1H); 9.58 (broad s: 1H); 11.2 (broad s: 1H); EI: m/z=406 (M+), m/z=205 (C8H3NOF4+), m/z=179 (C7H4NF4+) base peak, ES+: m/z=407 (MH+).

reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.012 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | triethylamine | 0.012 cm3 | C(C)N(CC)CC | C6H15N
reactant | 4-(4-aminophenyl)-1H-pyrrole-3-carboxamide | 84.48 mmol, 0.017 g | NC1=CC=C(C=C1)C=1C(=CNC1)C(=O)N | C11H11N3O
solvent | tetrahydrofuran | 27 cm3 | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 cm3 | ClCCl | CH2Cl2
product | 4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)-ureido]phenyl}-1H-pyrrole-3-carboxamide | 22 mg | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C=1C(=CNC1)C(=O)N)=O | C19H14F4N4O2
